US06800778B1
(3) Synthesis of ethyl 2,2-dimethyl(2-chlorobenzoyl)acetate
2-Chlorobenzoyl chloride (17.5 g, 0.1 mol) and ethyl 2-bromo-2,2-dimethylacetate (19.5 g, 0.1 mol) were diluted with ether (200 ml) and added dropwise into a 300 ml four-necked flask containing a zinc powder (13.0 g, 0.2 mol). After adding dropwise about 30 ml, the mixture was heated and the remaining solution was added dropwise over 2 h under reflux. After the completion of the dropwise addition, the mixture was refluxed for 4 h and allowed to cool, and 1N-hydrochloric acid (100 ml) was added dropwise. After partitioning, the aqueous layer was extracted with ether (100 ml), and the organic layer was combined. The mixture was dried over sodium sulfate and concentrated. The concentrated dry solid was purified by silica gel column chromatography (silica gel 1 kg, hexane:ethyl acetate=9:1) to give the title compound (13.8 g, 54%) as a colorless oil.

reactant | 2-Chlorobenzoyl chloride | 0.1 mol, 17.5 g | ClC1=C(C(=O)Cl)C=CC=C1 | C7H4Cl2O
reactant | ethyl 2-bromo-2,2-dimethylacetate | 0.1 mol, 19.5 g | BrC(C(=O)OCC)(C)C | C6H11BrO2
reactant | hydrochloric acid | 100 ml | Cl | ClH
solvent | ether | 200 ml | CCOCC | C4H10O
catalyst | zinc | 0.2 mol, 13.0 g | [Zn] | Zn
product | ethyl 2,2-dimethyl(2-chlorobenzoyl)acetate | 13.8 g, 54% | CC(C(=O)OCC)(C)C(C1=C(C=CC=C1)Cl)=O | C13H15ClO3
